US09120789B2
7-(4-Amino-3-fluorophenoxy)-3-methyl-1H-imidazo[4,5-b]pyridin-2(3H)-one
A solution of tert-butyl 2-fluoro-4-(3-methyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenylcarbamate (2.18 g, 5.8 mmol) in 1 M TBAF in THF (41 mL) was refluxed overnight under an argon atmosphere. The solution was cooled and evaporated and water (20 mL) was added, upon which a precipitate formed. The precipitate was filtered, washed with water, and dried to give the title compound as an off-white solid.

reactant | tert-butyl 2-fluoro-4-(3-methyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenylcarbamate | 5.8 mmol, 2.18 g | FC1=C(C=CC(=C1)OC1=C2C(=NC=C1)N(C(N2)=O)C)NC(OC(C)(C)C)=O | C18H19FN4O4
solvent | TBAF | 1 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 41 mL | C1CCOC1 | C4H8O
product | 7-(4-Amino-3-fluorophenoxy)-3-methyl-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC1=C(C=C(OC2=C3C(=NC=C2)N(C(N3)=O)C)C=C1)F | C13H11FN4O2
